Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril / almonds / platelets / peanut / tree nut
 
Attending: ___
 
Chief Complaint:
Weakness
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
___ with cirrhosis due to NASH and sarcoidosis (MELD 19, Child's
C) c/b refractory portal HTN s/p TIPS, EV, SBP, HE, listed for
transplant, also with T2DM, HTN and depression referred from
clinic to ED for weakness.

Of note, she was recently admitted ___ ___nd med non
compliance. She was discharged home with oral caloric
supplements, ___ and OT assessment, and nursing support. She was
seen once by visiting RN, and per report also had one OT visit.
___ had not yet come. Since then she has been taking meds but has
had continued weakness and poor PO intake at home. Her appetite
is limited by her abdominal distention and bloating. She is able
to ambulate very slowly and is unsteady. Diuretics were held 
last
admission and she has since gained 4 lbs. In the ED reported 
pain
on L side at site of prior rib frx, worsening lower back pain
(site of prior fall). Minimal improvement with APAP, some with
tramadol. She has no confusion, fever, chest pain, SOB, 
abdominal
pain, nausea/vomiting, diarrhea, or other complaints. She has
been stooling TID. 

In the ED initial vitals: 
Today ___ 74 124/54 16 100% RA 
Today 19:27 98.1 73 125/42 16 100% RA 

- Labs notable for:
CBC 3.3>8.3<43, Tbili 6.1, Cr 1.0, INR 1.6, HBsAb negative, CMV
serologies pending

- Patient was given: none of her home meds

Upon arrival to the floor, she gave the above history, is aware
of the plan, and is amenable to the feeding tube.  

 
Past Medical History:
___ cirrhosis complicated by HE, SBP, varices, and refractory
ascites now s/p TIPS (___)
Sarcoidosis  
Insulin-dependent diabetes mellitus (type 2)  
Hypertension
Depression
Anxiety  
Leaking umbilical hernia s/p repair (___)   
 
Social History:
___
Family History:
-Mother: DM
-Father: ___ Disease 
-Sister: ___

 
Physical ___:
ADMISSION PHYSICAL EXAM
=========================
VS: 98.5 PO 122 / 65 L Lying 71 18 99 Ra 
GENERAL: NAD, sleeping 
HEENT: icteric sclera, pink conjunctiva, MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, pansystolic murmur heard throughout 
precordium
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: mildly distended, nontender in all quadrants, no
rebound/guarding, soft 
BACK: L spine tenderness
EXTREMITIES: no ___ edema  
PULSES: palpable DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose, +asterixis  

SKIN: warm and well perfused, no rashes

DISCHARGE PHYSICAL EXAM
=========================
24 HR Data (last updated ___ @ 304)
    Temp: 97.7 (Tm 98.5), BP: 130/69 (124-164/64-76), HR: 82
(75-82), RR: 20 (___), O2 sat: 90% (90-95), O2 delivery: Ra,
Wt: 127.3 lb/57.74 kg   
GENERAL: NAD
HEENT: icteric sclera, MMM. Dobhoff placed on ___, bridled. 
HEART: RRR, S1/S2, pansystolic murmur heard throughout 
precordium
LUNGS: L mid-lower posterior lobe crackles, otherwise CTA. 
ABDOMEN: soft, distended, nt. 
EXTREMITIES: Warm, no ___. 
NEURO: A&Ox3, no asterixis. No focal neurologic deficits. 
 
Pertinent Results:
ADMISSION LABS
==============
___ 09:31AM BLOOD WBC-3.3* RBC-2.30* Hgb-8.3* Hct-24.5* 
MCV-107* MCH-36.1* MCHC-33.9 RDW-20.3* RDWSD-79.3* Plt Ct-43*
___ 09:31AM BLOOD Neuts-74.6* Lymphs-13.0* Monos-6.7 
Eos-4.5 Baso-0.6 Im ___ AbsNeut-2.46 AbsLymp-0.43* 
AbsMono-0.22 AbsEos-0.15 AbsBaso-0.02
___ 09:31AM BLOOD ___
___ 09:31AM BLOOD UreaN-27* Creat-1.0 Na-140 K-4.2 Cl-107 
HCO3-22 AnGap-11
___ 09:31AM BLOOD ALT-15 AST-34 AlkPhos-160* TotBili-6.1*
___ 09:31AM BLOOD Albumin-3.8 Phos-3.4 Mg-2.1

DISCHARGE LABS
==============
___ 05:44AM BLOOD WBC-3.9* RBC-2.37* Hgb-8.4* Hct-25.2* 
MCV-106* MCH-35.4* MCHC-33.3 RDW-21.2* RDWSD-81.2* Plt Ct-41*
___ 05:44AM BLOOD ___ PTT-36.4 ___
___ 05:44AM BLOOD Glucose-232* UreaN-48* Creat-1.1 Na-142 
K-3.9 Cl-104 HCO3-25 AnGap-13
___ 05:44AM BLOOD ALT-12 AST-29 LD(LDH)-247 AlkPhos-194* 
TotBili-6.6*
___ 05:44AM BLOOD Albumin-4.2 Calcium-9.2 Phos-3.7 Mg-2.7*

MICRODATA:
==============
___ 09:31AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HAV Ab-POS*
___ 09:31AM BLOOD AFP-13.1*
___ 09:31AM BLOOD CMV IgG-NEG CMV IgM-NEG CMVI-There is n
___ 09:31AM BLOOD HIV Ab-NEG
___ 09:31AM BLOOD HCV Ab-NEG

REPORTS:
==============
___ CXR: Diffusely increased interstitial opacities 
suggesting interstitial edema superimposed on known pulmonary 
fibrosis. 

___ RUQUS: 1. Patent TIPS. 
2. Coarse and nodular hepatic architecture consistent with the 
patient's known cirrhosis.  Splenomegaly.  Mild ascites is only 
seen surrounding the liver.
3. Cholelithiasis. 

___ NG TUBE PLACEMENT: Successful post-pyloric advancement 
of a Dobhoff feeding tube. The tube is ready to use. 

___ CXR: Unchanged diffused pulmonary congestion.  Unable 
to rule out overlying infection over the left lung base. 

 
Brief Hospital Course:
Ms. ___ is a ___ with cirrhosis due to NASH and 
sarcoidosis (MELD 19, Child's
C) c/b refractory portal HTN s/p TIPS, EV, SBP, HE, listed for 
transplant, admitted with volume overload s/p diuresis, failure 
to thrive for which ___ was consulted, and moderate 
malnourishment for which Dobhoff was placed post-pyloric and 
tube feeds were started. Her hospital course was c/b ___ likely 
secondary to over-diuresis. Her Cr improved and she was stable 
to be discharged to rehab. 

# Failure to thrive 
# Moderate protein calorie malnutrition
She was seen in clinic on ___ by outpatient hepatologist (Dr. 
___ who evaluated pt and felt pt was frail based on 
frailty score 4.9. She was admitted for frailty, moderate 
malnutrition and rehab placement. Notably, she had a recent 
mechanical fall at home and reports lower back pain from her 
fall. She worked with physical therapy and had Dobhoff 
placed/bridled on ___, and subsequently advanced post-pyloric 
by radiology. Cycled tube feds were started. She is being 
discharged to rehab.

# NASH/sarcoid-related cirrhosis c/b HE, EV, portal HTN, SBP s/p 
TIPS ___ (MELD 20 at admission)
Although pt's abdomen appears distended, multiple bedside 
ultrasounds showed no tappable ascites. She did not receive 
paracentesis during this admission. RUQUS showed mild ascites 
around the liver, patent TIPS, and cholelithiasis. She was 
continued on home lactulose, rifaximin. We continued to hold 
home diuretics (this was discontinued in the outpatient setting) 
due to ___. We attempted IV and PO diuresis while pt was 
admitted given weight increase compared to prior discharge; 
however, this resulted in worsening of her Cr to a peak of 1.6. 
Of note, discharge weight was ~129.7 lbs (last d/c weight: 116 
lbs) in the setting of starting tube feeds as well as overall 
holding diuretics (notably did have crackles on lungs however 
had normal oxygen saturations on room air, did not have BLE 
edema or ascites). Given her recurrent ___ to diuretics, will 
plan to allow patient to auto-diurese now that her kidney 
function has improved with further consideration for starting 
diuretics at outpatient Hepatology follow up. She was otherwise 
continued on home lactulose, rifaximin.

# ___ 
Likely ___ over-diuresis as urine lytes were consistent with a 
pre-renal ___. Creatinine peaked at 1.6, Discharge Cr of 1.1.

# BLE edema
# Abdominal distention
Pt presented with BLE edema and worsening abdominal distention 
in the setting of not taking diuretics (held at prior discharge 
due to ___. As above, abdomen was distended however multiple 
bedside U/S showed no e/o ascites. We attempted to actively 
diurese; however, she had recurrent AKIs as a result and held 
diuresis at discharge. Of note, she intermittently had nocturnal 
desaturations however has history of OSA and did not require 
supplemental oxygen. 

# Dysuria
Reported dysuria on ___. UCx negative and dysuria resolved. 

CHRONIC ISSUES:
===============
# History of portal hypertensive gastropathy: Required 1 
transfusion during hospitalization, otherwise Hgb stable. Hgb 
8.4 at discharge. 

# T2DM: Increased home Lantus 36/32 to 40/40 due to 
hyperglycemia. Continued sliding scale Humalog. 

# Anxiety/depression: Continued home fluoxetine and buspirone.

# CONTACT: 
Name of health care proxy: ___ 
Relationship: husband 
Phone number: ___ 

===================
TRANSITIONAL ISSUES
===================
[] Will need weekly labs: CBC, BMP, LFTs, and INR. 
[] Monitor daily standing weight. Please call outpatient 
Hepatology if weight increases by more than 3 lbs in one day or 
5 lbs in one week, as may need to restart gentle PO diuretics.
[] Outpatient Hepatology to consider restarting PO diuretics if 
Cr is stable. Discharge Cr: 1.1. Discharge weight: 129.7 lbs. 
[] Monitor blood glucose. Increased Lantus 36/32 to 40/40 at 
time of discharge. Titrate PRN.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325 mg PO Q6H:PRN Pain - Mild/Fever 
2. BusPIRone 7.5 mg PO BID 
3. Ciprofloxacin HCl 500 mg PO Q24H 
4. Cyanocobalamin 500 mcg PO DAILY 
5. FLUoxetine 20 mg PO DAILY 
6. Lidocaine 5% Patch 1 PTCH TD QAM 
7. Midodrine 10 mg PO BID 
8. Multivitamins 1 TAB PO DAILY 
9. Ondansetron 4 mg PO DAILY:PRN nausea 
10. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN BREAKTHROUGH 
PAIN 
11. Pantoprazole 40 mg PO Q12H 
12. Rifaximin 550 mg PO BID 
13. Sodium Chloride Nasal ___ SPRY NU QID:PRN dry nose 
14. Ursodiol 300 mg PO BID 
15. Vitamin D 5000 UNIT PO DAILY 
16. Calcium Carbonate 1000 mg PO DAILY 
17. Lactulose 30 mL PO TID constipation/confusion 
18. Glargine 36 Units Breakfast
Glargine 32 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1.  Glargine 40 Units Breakfast
Glargine 40 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
2.  Acetaminophen 325 mg PO Q6H:PRN Pain - Mild/Fever  
3.  BusPIRone 7.5 mg PO BID  
4.  Calcium Carbonate 1000 mg PO DAILY  
5.  Ciprofloxacin HCl 500 mg PO Q24H  
6.  Cyanocobalamin 500 mcg PO DAILY  
7.  FLUoxetine 20 mg PO DAILY  
8.  Lactulose 30 mL PO TID constipation/confusion  
9.  Lidocaine 5% Patch 1 PTCH TD QAM  
10.  Midodrine 10 mg PO BID  
11.  Multivitamins 1 TAB PO DAILY  
12.  Ondansetron 4 mg PO DAILY:PRN nausea  
13.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN BREAKTHROUGH 
PAIN  
14.  Pantoprazole 40 mg PO Q12H  
15.  Rifaximin 550 mg PO BID  
16.  Sodium Chloride Nasal ___ SPRY NU QID:PRN dry nose  
17.  Ursodiol 300 mg PO BID  
18.  Vitamin D 5000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
NASH/sarcoidosis related cirrhosis complicated by varices and 
ascites

Secondary:
Acute kidney injury
Dysuria
Type 2 diabetes mellius, dependent on insulin
Anxiety
Depression 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - independent, but used walker in 
the hospital.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for weakness and weight loss. 

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?  
 - We placed a feeding tube for nutrition. 
 - You worked with physical therapy to ensure you got stronger. 
 - You improved and were ready to leave the hospital.  

WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
 - Work with physical therapy at rehab to gain your strength so 
that you can get a liver transplant
 - You must never drink alcohol again or you could die.  
 - Take all of your medications as prescribed (listed below)  
 - Keep your follow up appointments with your doctors  
 - Weigh yourself every morning, before you eat or take your 
medications. Call your doctor if your weight changes by more 
than 3 pounds  
 - Please stick to a low salt diet and monitor your fluid intake 
 
 - If you experience any of the danger signs listed below please 
call your primary care doctor or come to the emergency 
department immediately.  

It was a pleasure participating in your care. We wish you the 
best!
  
 - Your ___ Care Team  
 
Followup Instructions:
___